US06596772B1
A mixture of 4-(trifluromethylthio)benzylamine (250 mg, 1.21 mmol), benzoyl chloride (178 mg, 1.27 mmol) and sodium bicarbonate (508 mg, 6.05 mmol) in DCM (15 mL) was stirred at rt until the reaction completed. The reaction was diluted with ethyl acetate, washed with brine and dried to give 372 mg (99%) of N-(4-trifluoromethylthiobenzyl)benzamide as a white solid. 1HNMR (360 MHz, DMSO-d6) δ 9.07 (m, 1H, NH), 7.88-7.90 (m, 2H), 7.66-7.68 (d, J=8.7 Hz, 2H), 7.45-7.56 (m, 5H), 4.53 (d, J=6.1 Hz, NCH2, 2H). MS-EI m/z 311 [M+].

reactant | 4-(trifluromethylthio)benzylamine | 1.21 mmol, 250 mg | FC(SC1=CC=C(CN)C=C1)(F)F | C8H8F3NS
reactant | benzoyl chloride | 1.27 mmol, 178 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | 6.05 mmol, 508 mg | C([O-])(O)=O.[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-trifluoromethylthiobenzyl)benzamide | 372 mg, 99% | FC(SC1=CC=C(CNC(C2=CC=CC=C2)=O)C=C1)(F)F | C15H12F3NOS
